US07273946B2
II.2 Preparation of 4-bromobutyl nitrate
In reactor cooled to −5 to 5° C., nitric acid fuming (8.5 g-135 mmol) was slowly added to a solution of 98% sulfuric acid (13.0 g-130 mmol) in dichloromethane (18.0 g-212 mmol). 4-bromobutanol (10.2 g-66.6 mmol) was then added to this mixture and the reaction medium was stirred at −5 to 5° C. over a period of 2-5 hours. The mixture was poured into cold water (110 g) keeping the temperature between −5° C. and 3° C. After decantation, the upper aqueous phase was extracted with dichloromethane and the combined organic phases were washed with water, adjusted to pH=6-7 by addition of 27.65% sodium hydroxide, washed with brine and dried over magnesium sulfate. Dichloromethane was distilled off under vacuum and crude 4-bromobutyl nitrate (12.7 g-64.1 mmol) was recovered in a yield of about 96%.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromobutanol | BrCCCCO | C4H9BrO
reactant | water | 110 g | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-bromobutyl nitrate | yield of about 96% | [N+](=O)(OCCCCBr)[O-] | C4H8BrNO3
